US04115568
(o) Ethyl 2-(4-bromo-2-nitroanilino)-5-ethyl-thiophene-3-carboxylate
Ethyl 2-amino-5-ethyl-thiophene-3-carboxylate and 5-bromo-2-fluoronitrobenzene, m.p. 76°-78° C. EtOH).

reactant | Ethyl 2-amino-5-ethyl-thiophene-3-carboxylate | NC=1SC(=CC1C(=O)OCC)CC | C9H13NO2S
reactant | 5-bromo-2-fluoronitrobenzene | BrC=1C=CC(=C(C1)[N+](=O)[O-])F | C6H3BrFNO2
solvent | EtOH | CCO | C2H6O
product | Ethyl 2-(4-bromo-2-nitroanilino)-5-ethyl-thiophene-3-carboxylate | BrC1=CC(=C(NC=2SC(=CC2C(=O)OCC)CC)C=C1)[N+](=O)[O-] | C15H15BrN2O4S
